US07202363B2
N-(4-bromo-2-methylphenyl)-2,2,2-trifluoroacetamide
A solution of 4-bromo-2-methyl-phenylamine (commercially available, 2.5 g, 13.4 mmol) in dichloromethane (27 mL) was treated with trifluoroacetic anhydride (2.3 mL, 16.3 mmol), stirred at room temperature for one hour and concentrated to dryness to give 3.7 g (98% yield) of the desired product. MS (ESI(−)) m/e 279.8, 281.9 (M−H)−.

reactant | 4-bromo-2-methyl-phenylamine | BrC1=CC(=C(C=C1)N)C | C7H8BrN
reactant | trifluoroacetic anhydride | 16.3 mmol, 2.3 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 27 mL | ClCCl | CH2Cl2
product | N-(4-bromo-2-methylphenyl)-2,2,2-trifluoroacetamide | 3.7 g, 98% yield | BrC1=CC(=C(C=C1)NC(C(F)(F)F)=O)C | C9H7BrF3NO
